US07579473B2
To a round bottom flask equipped with a magnetic stir bar was added 4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-quinolin-7-ol (2.74 g, 6.7 mmol, 1.0 eq.), DMA (30 ml) and cesium carbonate (6.6 g, 20.2 mmol, 3.0 eq). The mixture was stirred at room temperature for 30 minutes at which time 5-methanesulfonyloxymethyl-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid benzyl ester (2.6 g, 7.3 mmol, 1.1 eq) was added. The reaction was heated to 75° C. and allowed to stir overnight. After allowing the reaction to cool to room temperature the reaction was poured into water. The solid was filtered and was then dissolved in EtOAc and washed 2× water, 1× brine and dried over NaSO4. The solvent was removed to yield 5-[4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-quinolin-7-yloxymethyl]-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid benzyl ester as a cream solid (3.7 g, 94% yield). 1H NMR (400 MHz, CDCl3): 8.55 (d, 1H), 8.15 (d, 1H), 8.09 (d, 1H), 7.32 (m, 8H), 6.52 (d, 1H), 5.11 (d, 2H), 4.13 (d, 2H), 3.95 (s, 3H), 3.57 (m, 2H), 3.43 (m, 2H), 2.93 (m, 3H), 2.16 (m, 2H), 1.39 (m, 2H); MS (EI) for C32H30FN3O7: 588 (M+H+).

reactant | 4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-quinolin-7-ol | 6.7 mmol, 2.74 g, 1.0 eq. | FC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)O)C=CC(=C1)[N+](=O)[O-] | C16H11FN2O5
reactant | DMA | 30 ml | CC(=O)N(C)C | C4H9NO
reactant | cesium carbonate | 20.2 mmol, 6.6 g, 3.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-methanesulfonyloxymethyl-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid benzyl ester | 7.3 mmol, 2.6 g, 1.1 eq | C(C1=CC=CC=C1)OC(=O)N1CC2C(C1)CC(C2)COS(=O)(=O)C | C17H23NO5S
solvent | water | O | H2O
product | 5-[4-(2-Fluoro-4-nitro-phenoxy)-6-methoxy-quinolin-7-yloxymethyl]-hexahydro-cyclopenta[c]pyrrole-2-carboxylic acid benzyl ester | 3.7 g, 94% yield | C(C1=CC=CC=C1)OC(=O)N1CC2C(C1)CC(C2)COC2=C(C=C1C(=CC=NC1=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])F)OC | C32H30FN3O7
